US04771054
0.75 g (0.27 mmole) of 9,10-difluoro-2,3-dihydro3-methyl-7-oxo-7H-pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylic acid, 40 ml acetonitrile, and 0.80 g (8.0 mmole) of 3-pyrrolidinemethanamine were refluxed overnight. The solvent was removed at reduced pressure and the residue titurated with 40 ml of ethanol/ether (1:1), to give 0.90 g of 10-[3-(aminomethyl)-1-pyrrolidinyl]-9-fluoro-2,3-dihydro- methyl-7-oxo-7H-pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylic acid, mp 213°-216° C.

reactant | 9,10-difluoro-2,3-dihydro3-methyl-7-oxo-7H-pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylic acid | 0.27 mmole, 0.75 g | FC=1C(=C2C=3N(C(CO2)C)C=C(C(C3C1)=O)C(=O)O)F | C13H9F2NO4
reactant | 3-pyrrolidinemethanamine | 8.0 mmole, 0.80 g | N1CC(CC1)CN | C5H12N2
reactant | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 10-[3-(aminomethyl)-1-pyrrolidinyl]-9-fluoro-2,3-dihydro- methyl-7-oxo-7H-pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylic acid | 0.90 g | NCC1CN(CC1)C=1C(=CC2=C3N(CC(OC31)C)C=C(C2=O)C(=O)O)F | C18H20FN3O4
